US08580841B2
Step D: Preparation of Ethyl 2-(7-(4-(Cyclohexylmethyl)-3-(trifluoromethyl)benzyloxy)-1,2,3,4-tetrahydrocyclopenta[b]indol-3-yl)acetate.
To a stirred reaction mixture of ethyl 2-(7-hydroxy-1,2,3,4-tetrahydrocyclopenta[b]indol-3-yl)acetate (40 mg, 0.15 mmol) and cesium carbonate (75 mg, 0.23 mmol) in DMF (1 mL) was added 4-(bromomethyl)-1-(cyclohexylmethyl)-2-(trifluoromethyl)benzene (78 mg, 0.23 mmol). The reaction mixture was stirred at room temperature for 1 h. The solid was filtered and washed with ethyl acetate. The combined filtrate was concentrated, and the residue was purified by preparative TLC to give the title compound (40 mg) as an oil. LCMS m/z=514.5 [M+H]+. 1H NMR (400 MHz, CDCl3) δ 0.96-1.06 (m, 2H), 1.14-1.22 (m, 3H), 1.30 (t, J=7.2 Hz, 3H), 1.55-1.72 (m, 6H), 2.07-2.15 (m, 1H), 2.50 (dd, J=16.7 and 11.2 Hz, 1H), 2.66 (d, J=6.8 Hz, 2H), 2.70-2.86 (m, 4H), 3.52-3.58 (m, 1H), 4.18-4.25 (m, 2H), 5.08 (s, 2H), 6.85 (dd, J=8.8 and 2.4 Hz, 1H), 7.00 (d, J=2.4 Hz, 1H), 7.21 (d, J=8.8 Hz, 1H), 7.31 (d, J=7.9 Hz and 1.6 Hz, 1H), 7.55 (d, J=7.8 Hz, 1H), 7.72 (d, J=1.6 Hz, 1H), 8.46 (s, 1H).

reactant | ethyl 2-(7-hydroxy-1,2,3,4-tetrahydrocyclopenta[b]indol-3-yl)acetate | 0.15 mmol, 40 mg | OC1=CC=2C3=C(NC2C=C1)C(CC3)CC(=O)OCC | C15H17NO3
reactant | cesium carbonate | 0.23 mmol, 75 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 4-(bromomethyl)-1-(cyclohexylmethyl)-2-(trifluoromethyl)benzene | 0.23 mmol, 78 mg | BrCC1=CC(=C(C=C1)CC1CCCCC1)C(F)(F)F | C15H18BrF3
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | Ethyl 2-(7-(4-(Cyclohexylmethyl)-3-(trifluoromethyl)benzyloxy)-1,2,3,4-tetrahydrocyclopenta[b]indol-3-yl)acetate | 40 mg | C1(CCCCC1)CC1=C(C=C(COC2=CC=3C4=C(NC3C=C2)C(CC4)CC(=O)OCC)C=C1)C(F)(F)F | C30H34F3NO3
